US05536725
This compound is prepared in a manner analogous to that of Step D of Example 2, using 7.9 grams (0.025 mole) of 8-(3-trifluoromethylphenylmethoxy)- 1,4-dioxaspiro[4.5]decane, and 25 mL of water in 50 mL of acetic acid, yielding 4-(3-trifluoromethylphenylmethoxy)cyclohexanone.

reactant | 8-(3-trifluoromethylphenylmethoxy)- 1,4-dioxaspiro[4.5]decane | 0.025 mole, 7.9 grams | FC(C=1C=C(C=CC1)COC1CCC2(OCCO2)CC1)(F)F | C16H19F3O3
reactant | water | 25 mL | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-(3-trifluoromethylphenylmethoxy)cyclohexanone | FC(C=1C=C(C=CC1)COC1CCC(CC1)=O)(F)F | C14H15F3O2
